US06821988B2
N-[4-(3-Chloro-4-fluoroanilino)-3-cyano-7-ethoxy-6-quinolinyl]-3-(dimethylamino)butanamide
To a stirred solution of N-[4-(3-chloro-4-fluoroanilino)-3-cyano-7-ethoxy-6-quinolinyl]-2-butenamide (0.212 g, 0.50 mmol) in 25 ml of 2.0 M dimethylamine in tetrahydrofuran was added 0.02 ml of 40% aqueous Triton B. After 66 h at 25° C. the solution was concentrated, and the residue was partitioned between methylene chloride and water. The residue from the organic layer was dissolved in ether, and the solution was passed onto a pad of hydrous magnesium silicate. The pad was washed with ether and ethyl acetate to give the product as an amber foam after evaporation (0.23 g). Mass spectrum (electrospray, m/e) 469.9 (M+H)+, 235.5 (M+2H)+2.

reactant | N-[4-(3-chloro-4-fluoroanilino)-3-cyano-7-ethoxy-6-quinolinyl]-2-butenamide | 0.50 mmol, 0.212 g | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(C=CC)=O)OCC)C#N)C=CC1F | C22H18ClFN4O2
reactant | dimethylamine | 2.0 M, 25 ml | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[4-(3-Chloro-4-fluoroanilino)-3-cyano-7-ethoxy-6-quinolinyl]-3-(dimethylamino)butanamide | ClC=1C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(CC(C)N(C)C)=O)OCC)C#N)C=CC1F | C24H25ClFN5O2
